US07435823B2
Pd on carbon (5 wt %, 0.015 g) was added to a solution of 6-(6,7-dimethoxy-3-nitroquinolin-4-yloxy)-1-naphthoic acid (0.149 g, 0.354 mmol) in MeOH (30 mL). The system was purged with H2 (g) and stirred under a H2 atmosphere at RT for 21 h to afford a thick suspension. The pH of the reaction was adjusted to 6-7 with 2N NaOH (aq), and Pd on carbon (5 wt %, 0.025 g) was added to the resulting solution. The mixture was purged with H2 then stirred under a H2 atmosphere at RT for 3 days (additional Pd on carbon (5 wt %, 0.025 g) was added after the first and second days). The mixture was filtered through a pad of Celite and the filtrate was concentrated to afford 6-(3-amino-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid as a brown solid. MS (ESI, pos. ion) m/z: 391.1 (M+H). Mass Calc'd for C22H18N2O5: 390.

reactant | 6-(6,7-dimethoxy-3-nitroquinolin-4-yloxy)-1-naphthoic acid | 0.354 mmol, 0.149 g | COC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C22H16N2O7
reactant | NaOH | 2N | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd on carbon | 0.015 g | [Pd] | Pd
catalyst | Pd on carbon | 0.025 g | [Pd] | Pd
product | 6-(3-amino-6,7-dimethoxyquinolin-4-yloxy)-1-naphthoic acid | NC=1C=NC2=CC(=C(C=C2C1OC=1C=C2C=CC=C(C2=CC1)C(=O)O)OC)OC | C22H18N2O5
